US04775695
[(2-Cyclopentyl-6,7-dichloro-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]acetonitrile
A mixture of 6,7-dichloro-2-cyclopentyl-5-hydroxy-2-methyl-2,3-dihydro-1H-inden-1-one (9.0 g, 30 mmole), chloroacetonitrile (2.5 g, 33 mmole), potassium carbonate (4.15 g), and potassium iodide (0.5 g) in acetone (150 ml) was stirred at reflux for 19 hours. Concentration to dryness in vacuo yielded an oil that crystallized upon trituration with water. Recrystallization from benzene-cyclohexane (ca. 1:3 by volume) gave the title compound (8.5 g), m.p. 129°-131°.

reactant | 6,7-dichloro-2-cyclopentyl-5-hydroxy-2-methyl-2,3-dihydro-1H-inden-1-one | 30 mmole, 9.0 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)O | C15H16Cl2O2
reactant | chloroacetonitrile | 33 mmole, 2.5 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | [(2-Cyclopentyl-6,7-dichloro-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]acetonitrile | 8.5 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)OCC#N)Cl)Cl)=O)C | C17H17Cl2NO2
